US04393000
14.1 g of alpha-chloro-beta-aminopropionitrile hydrochloride was dissolved in 160 g of water, and with stirring, 12 g of calcium hydroxide was gradually added. Then, the reaction mixture was heated to 60° C., and reacted at 60° to 65° C. for 8 hours. After the reaction, the excess of calcium hydroxide was removed by filtration. The residue was analyzed by high-speed liquid chromatography in the same way as in Example 1. The yield of calcium aziridine-2-carboxylate formed was 92.5%.

reactant | alpha-chloro-beta-aminopropionitrile hydrochloride | 14.1 g | Cl.ClC(C#N)CN
reactant | calcium hydroxide | 12 g | [OH-].[Ca+2].[OH-]
solvent | water | 160 g | O | H2O
product | calcium aziridine-2-carboxylate | N1C(C1)C(=O)[O-].[Ca+2].N1C(C1)C(=O)[O-] | InChI=1S/2C3H5NO2.Ca/c2*5-3(6)2-1-4-2;/h2*2,4H,1H2,(H,5,6);/q;;+2/p-2
